US06169086A
1) Preparation of 1-Bromo-3-chloro-5-(4-methoxybenzyloxy)-benzene
To a mixture of 5.8 ml of p-methoxybenzyl alcohol and 90 ml of N-methylpyrrolidone was added 2.13 g of sodium hydride (60% oil dispersion), and the resulting mixture was stirred at room temperature for 45 minutes in a nitrogen atmosphere. To the reaction mixture was added 9.3 g of 1-bromo-3-chloro-5-fluorobenzene, followed by stirring at 50° C. for 3 hours. The reaction mixture was poured into 50 ml of ice-diluted hydrochloric acid and extracted three times with diethyl ether-hexane (1:1 by volume). The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography using a hexane-ethyl acetate (19:1 by volume) mixed solvent. The fraction containing the desired compound was concentrated to furnish 13.2 g of the title compound.

reactant | p-methoxybenzyl alcohol | 5.8 ml | COC=1C=CC(=CC1)CO | C8H10O2
reactant | sodium hydride | 2.13 g | [H-].[Na+]
reactant | 1-bromo-3-chloro-5-fluorobenzene | 9.3 g | BrC1=CC(=CC(=C1)F)Cl | C6H3BrClF
solvent | N-methylpyrrolidone | 90 ml | CN1C(CCC1)=O | C5H9NO
product | 1-Bromo-3-chloro-5-(4-methoxybenzyloxy)-benzene | 13.2 g | BrC1=CC(=CC(=C1)OCC1=CC=C(C=C1)OC)Cl | C14H12BrClO2
